US05919768
4-(4-Methoxyphenyl)butyric acid (2.0 g, 10.3 mmol) was treated with thionyl chloride (20 mL). The reaction was stirred at rt for 3 h, heated at 65° C. overnight and then concentrated under reduced pressure to give 4-(4-methoxyphenyl)butyryl chloride (2.3 g) as a yellow oil which was used without farther purification. IR (NaCl): 1795, 1510, 1244 cm-1.

reactant | 4-(4-Methoxyphenyl)butyric acid | 10.3 mmol, 2.0 g | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(4-methoxyphenyl)butyryl chloride | 2.3 g | COC1=CC=C(C=C1)CCCC(=O)Cl | C11H13ClO2
